US04321384
1,4,5,6,7,8-Hexahydro-2-methyl-5-oxo-7-phenylmethyl-4-[2-(trifluoromethyl)phenyl]-1,7-naphthyridine-3-carboxylic acid, 2-(N-benzyl-N-methylamino)ethyl ester
A mixture of 15.2 g. of 1-benzyl-3-oxo-5-hydroxy-1,2,3,6-tetrahydropyridine, 13.1 g. of o-trifluoromethylbenzaldehyde, 18.7 g. of 2-(N-benzyl-N-methylamino)ethyl acetoacetate, 6 ml. of 28% ammonium hydroxide and 200 ml. of isopropanol was heated at reflux for 3 hours. The solution was evaporated to dryness. The residue was dissolved in 100 ml. of methylenechloride and extracted with 150 ml. of 15% hydrochloric acid. The acid extract was cooled and made basic with saturated sodium carbonate solution. The mixture was extracted with methylenechloride. The methylenechloride solution was dried over magnesium sulfate, then evaporated in vacuo to a solid residue. The residue was recrystallized from ethanol to obtain the title compound, m.p. 183°-185° C.

reactant | 1-benzyl-3-oxo-5-hydroxy-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CC(C=C(C1)O)=O | C12H13NO2
reactant | o-trifluoromethylbenzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | 2-(N-benzyl-N-methylamino)ethyl acetoacetate | C(CC(=O)C)(=O)OCCN(C)CC1=CC=CC=C1 | C14H19NO3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1,4,5,6,7,8-Hexahydro-2-methyl-5-oxo-7-phenylmethyl-4-[2-(trifluoromethyl)phenyl]-1,7-naphthyridine-3-carboxylic acid, 2-(N-benzyl-N-methylamino)ethyl ester | CC=1NC=2CN(CC(C2C(C1C(=O)OCCN(C)CC1=CC=CC=C1)C1=C(C=CC=C1)C(F)(F)F)=O)CC1=CC=CC=C1 | C34H34F3N3O3
